US04036986
20 g of N-(4-chlorobenzyl)-N-sec.-butylamine were dissolved in 500 ml of ether. To the resulting solution, a solution of 14 g of phenyl isothiocyanate in 50 ml of ether was added dropwise, under cooling and stirring. After the dropwise addition, the temperature of the solution was gradually raised, and the solution was then stirred at room temperature for about 10 hours. The crystals which had been formed were separated by filtration. After recrystallization with a solvent mixture of hexane and ethyl alcohol, 30 g of N-(4-chlorobenzyl)-N-sec.-butyl-N'-phenylthiourea were obtained. Yield: 91%. Melting point: 134°-134.5° C.

reactant | N-(4-chlorobenzyl)-N-sec.-butylamine | 20 g | ClC1=CC=C(CNC(C)CC)C=C1 | C11H16ClN
reactant | phenyl isothiocyanate | 14 g | C1(=CC=CC=C1)N=C=S | C7H5NS
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | N-(4-chlorobenzyl)-N-sec.-butyl-N'-phenylthiourea | 30 g, Yield: 91% | ClC1=CC=C(CN(C(=S)NC2=CC=CC=C2)C(C)CC)C=C1 | C18H21ClN2S
